### PR TITLE
[Merged by Bors] - feat(RingTheory/MvPolynomial/MonomialOrder/Monic): monic polynomials wrt a monomial order

### PR DESCRIPTION
**Pull request by AntoineChambert-Loir**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/MvPolynomial/MonomialOrder.lean [hunk 1]
```diff
@@ -71,16 +71,42 @@ variable {R : Type*} [CommSemiring R]
...
 
 variable (m) in
 /-- the leading coefficient of a multivariate polynomial with respect to a monomial ordering -/
-def leadingCoeff {R : Type*} [CommSemiring R] (f : MvPolynomial σ R) : R :=
+def leadingCoeff (f : MvPolynomial σ R) : R :=
   f.coeff (m.degree f)
 
 @[deprecated (since := "2025-01-31")] alias lCoeff := leadingCoeff
 
+theorem leadingCoeff_eq {f : MvPolynomial σ R} : m.leadingCoeff f = f.coeff (m.degree f) := rfl
```
Comment (YaelDillies) [inline Mathlib/RingTheory/MvPolynomial/MonomialOrder.lean:84]: I think we don't really want that lemma?

File: Mathlib/RingTheory/MvPolynomial/MonomialOrder.lean [hunk 2]
```diff
@@ -71,16 +71,42 @@ variable {R : Type*} [CommSemiring R]
...
+
+variable (m) in
+/-- A multivariate polynomial is `Monic` with respect to a monomial order
+if its leading coefficient (for that monomial order) is 1 -/
```
Comment (YaelDillies) [inline Mathlib/RingTheory/MvPolynomial/MonomialOrder.lean:88]:
```suggestion
if its leading coefficient (for that monomial order) is 1. -/
```

File: Mathlib/RingTheory/MvPolynomial/MonomialOrder.lean [hunk 3]
```diff
@@ -71,16 +71,42 @@ variable {R : Type*} [CommSemiring R]
...
+def Monic (f : MvPolynomial σ R) : Prop :=
+  m.leadingCoeff f = 1
+
+theorem Monic.def (f : MvPolynomial σ R) : m.Monic f ↔ m.leadingCoeff f = 1 :=
+  Iff.rfl
```
Comment (YaelDillies) [inline Mathlib/RingTheory/MvPolynomial/MonomialOrder.lean:93]: Same, this is just the equational lemma so you can already do `rw [Monic]`

File: Mathlib/RingTheory/MvPolynomial/MonomialOrder.lean [hunk 4]
```diff
@@ -71,16 +71,42 @@ variable {R : Type*} [CommSemiring R]
...
+
+@[nontriviality] theorem monic_of_subsingleton [Subsingleton R] {f : MvPolynomial σ R} :
```
Comment (YaelDillies) [inline Mathlib/RingTheory/MvPolynomial/MonomialOrder.lean:95]:
```suggestion
@[nontriviality] theorem Monic.of_subsingleton [Subsingleton R] {f : MvPolynomial σ R} :
```

File: Mathlib/RingTheory/MvPolynomial/MonomialOrder.lean [hunk 5]
```diff
@@ -71,16 +71,42 @@ variable {R : Type*} [CommSemiring R]
...
+    m.Monic f :=
+  Subsingleton.eq_one (m.leadingCoeff f)
+
+instance Monic.decidable [DecidableEq R] (f : MvPolynomial σ R) :
+    Decidable (m.Monic f) := by
+  unfold Monic; infer_instance
+
+@[simp]
+theorem Monic.leadingCoeff {f : MvPolynomial σ R} (hf : m.Monic f) : m.leadingCoeff f = 1 :=
```
Comment (YaelDillies) [inline Mathlib/RingTheory/MvPolynomial/MonomialOrder.lean:104]:
```suggestion
theorem Monic.leadingCoeff_eq_one {f : MvPolynomial σ R} (hf : m.Monic f) : m.leadingCoeff f = 1 :=
```
Otherwise I would expect something like `p.Monic -> p.leadingCoeff.Monic` (which could actually typecheck if `p : R[X][X]`

File: Mathlib/RingTheory/MvPolynomial/MonomialOrder.lean [hunk 6]
```diff
@@ -91,6 +117,15 @@ theorem leadingCoeff_zero : m.leadingCoeff (0 : MvPolynomial σ R) = 0 := by
...
 @[deprecated (since := "2025-01-31")] alias lCoeff_zero := leadingCoeff_zero
 
+theorem Monic.ne_zero [Nontrivial R] {f : MvPolynomial σ R} (hf : m.Monic f) :
+    f ≠ 0 := by
+  rintro rfl
+  simp [Monic, leadingCoeff_zero] at hf
+
+theorem Monic.ne_zero_of_ne (h : (0 : R) ≠ 1) {f : MvPolynomial σ R} (hf : m.Monic f) : f ≠ 0 := by
+  nontriviality R
+  exact hf.ne_zero
```
Comment (YaelDillies) [inline Mathlib/RingTheory/MvPolynomial/MonomialOrder.lean:127]: What's the point of this lemma? It's a non-idiomatic restatement of `Monic.ne_zero`

File: Mathlib/RingTheory/MvPolynomial/MonomialOrder.lean [hunk 7]
```diff
@@ -120,6 +163,33 @@ theorem leadingCoeff_monomial {d : σ →₀ ℕ} (c : R) :
 
 @[deprecated (since := "2025-01-31")] alias lCoeff_monomial := leadingCoeff_monomial
 
+@[simp] theorem monic_monomial {d : σ →₀ ℕ} :
+    m.Monic (monomial d (1 : R)) :=
+  m.leadingCoeff_monomial 1
+
+theorem monic_monomial_iff {d : σ →₀ ℕ} {c : R} :
+    m.Monic (monomial d c) ↔ c = 1 :=
```
Comment (YaelDillies) [inline Mathlib/RingTheory/MvPolynomial/MonomialOrder.lean:171]:
```suggestion
theorem monic_monomial_one {d : σ →₀ ℕ} :
    m.Monic (monomial d (1 : R)) :=
  m.leadingCoeff_monomial 1

@[simp] theorem monic_monomial {d : σ →₀ ℕ} {c : R} :
    m.Monic (monomial d c) ↔ c = 1 :=
```

File: Mathlib/RingTheory/MvPolynomial/MonomialOrder.lean [hunk 8]
```diff
@@ -120,6 +163,33 @@ theorem leadingCoeff_monomial {d : σ →₀ ℕ} (c : R) :
...
+  by rw [Monic, m.leadingCoeff_monomial]
```
Comment (YaelDillies) [inline Mathlib/RingTheory/MvPolynomial/MonomialOrder.lean:172]:
```suggestion
    m.Monic (monomial d c) ↔ c = 1 := by 
  rw [Monic, m.leadingCoeff_monomial]
```

File: Mathlib/RingTheory/MvPolynomial/MonomialOrder.lean [hunk 9]
```diff
@@ -120,6 +163,33 @@ theorem leadingCoeff_monomial {d : σ →₀ ℕ} (c : R) :
...
+  monic_monomial
+
+theorem leadingCoeff_one : m.leadingCoeff (1 : MvPolynomial σ R) = 1 :=
+  m.leadingCoeff_monomial 1
+
+theorem monic_one : m.Monic (C 1 : MvPolynomial σ R) :=
+  monic_monomial
+
+theorem monic_ne_zero [Nontrivial R] {f : MvPolynomial σ R} (hf : m.Monic f) :
+    f ≠ 0 := fun h ↦ by
```
Comment (YaelDillies) [inline Mathlib/RingTheory/MvPolynomial/MonomialOrder.lean:189]: You already have `Monic.ne_zero`

File: Mathlib/RingTheory/MvPolynomial/MonomialOrder.lean [hunk 10]
```diff
@@ -339,24 +426,88 @@ theorem leadingCoeff_mul_of_isRegular_right {f g : MvPolynomial σ R}
...
+  rw [mem_support_iff, coeff_pow_of_smul_degree]
+  exact hf
+
+/-- Leading coefficient of powers -/
+theorem leadingCoeff_pow {f : MvPolynomial σ R} {n : ℕ} (hf : m.leadingCoeff f ^ n ≠ 0) :
+    m.leadingCoeff (f ^ n) = m.leadingCoeff f ^ n := by
+  rw [leadingCoeff, degree_pow_of_pow_leadingCoeff_ne_zero hf, coeff_pow_of_smul_degree]
+
+theorem monic_pow {f : MvPolynomial σ R} {n : ℕ} (hf : m.Monic f) :
+    m.Monic (f ^ n) := by
```
Comment (YaelDillies) [inline Mathlib/RingTheory/MvPolynomial/MonomialOrder.lean:505]:
```suggestion
theorem Monic.pow {f : MvPolynomial σ R} {n : ℕ} (hf : m.Monic f) :
    m.Monic (f ^ n) := by
```

File: Mathlib/RingTheory/MvPolynomial/MonomialOrder.lean (hunk 1 above)
Comment (AntoineChambert-Loir) [reply Mathlib/RingTheory/MvPolynomial/MonomialOrder.lean:84]: Oddly enough, I needed it because `rw [leadingCoeff]` or `simp only [leadingCoeff]` had not worked.

File: Mathlib/RingTheory/MvPolynomial/MonomialOrder.lean (hunk 3 above)
Comment (AntoineChambert-Loir) [reply Mathlib/RingTheory/MvPolynomial/MonomialOrder.lean:93]: This lemma and some of the next are mere copies of what is already done for [Polynomial.Monic](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Polynomial/Degree/Definitions.html#Polynomial.Monic)

File: Mathlib/RingTheory/MvPolynomial/MonomialOrder.lean (hunk 5 above)
Comment (AntoineChambert-Loir) [reply Mathlib/RingTheory/MvPolynomial/MonomialOrder.lean:104]: The name was chosen following that of [Polynomial.Monic.leadingCoeff](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Polynomial/Degree/Definitions.html#Polynomial.Monic.leadingCoeff) !

File: Mathlib/RingTheory/MvPolynomial/MonomialOrder.lean (hunk 6 above)
Comment (AntoineChambert-Loir) [reply Mathlib/RingTheory/MvPolynomial/MonomialOrder.lean:127]: Idem.

File: Mathlib/RingTheory/MvPolynomial/MonomialOrder.lean (hunk 1 above)
Comment (AntoineChambert-Loir) [reply Mathlib/RingTheory/MvPolynomial/MonomialOrder.lean:99]: entering `rw [MonomialOrder.leadingCoeff]` or `rw [MonomialOrder.Monic]` suffices.

File: Mathlib/RingTheory/MvPolynomial/MonomialOrder.lean (hunk 7 above)
Comment (AntoineChambert-Loir) [reply Mathlib/RingTheory/MvPolynomial/MonomialOrder.lean:194]: I made both changes, but why the second one?

File: Mathlib/RingTheory/MvPolynomial/MonomialOrder.lean [hunk 11]
```diff
@@ -585,6 +593,16 @@ theorem leadingCoeff_prod_of_regular {ι : Type*}
     m.leadingCoeff (∏ i ∈ s, P i) = ∏ i ∈ s, m.leadingCoeff (P i) := by
   simp only [leadingCoeff, degree_prod_of_regular H, coeff_prod_sum_degree]
 
+/-- A product of monic polynomials is monic -/
+theorem Monic.prod {ι : Type*} {P : ι → MvPolynomial σ R} {s : Finset ι}
```
Comment (YaelDillies) [inline Mathlib/RingTheory/MvPolynomial/MonomialOrder.lean:597]:
```suggestion
protected theorem Monic.prod {ι : Type*} {P : ι → MvPolynomial σ R} {s : Finset ι}
```

File: Mathlib/RingTheory/MvPolynomial/MonomialOrder.lean [hunk 12]
```diff
@@ -71,26 +94,60 @@ variable {R : Type*} [CommSemiring R]
...
+theorem Monic.coeff_degree {f : MvPolynomial σ R} (hf : m.Monic f) : f.coeff (m.degree f) = 1 :=
+  hf
+
 @[simp]
 theorem degree_zero : m.degree (0 : MvPolynomial σ R) = 0 := by
   simp [degree]
 
+@[simp, nontriviality] theorem degree_subsingleton [Subsingleton R] {f : MvPolynomial σ R} :
+    m.degree f = 0 := by
+  rw [Subsingleton.eq_zero f, degree_zero]
```
Comment (YaelDillies) [inline Mathlib/RingTheory/MvPolynomial/MonomialOrder.lean:134]: I'm still unsure this lemma is worth having. We don't have `add_subsingleton [AddGroup G] [Subsingleton G] (a b : G) : a + b = a` etc

File: Mathlib/RingTheory/MvPolynomial/MonomialOrder.lean [hunk 13]
```diff
@@ -71,26 +94,60 @@ variable {R : Type*} [CommSemiring R]
...
+
 @[simp]
 theorem leadingCoeff_zero : m.leadingCoeff (0 : MvPolynomial σ R) = 0 := by
   simp [degree, leadingCoeff]
 
 @[deprecated (since := "2025-01-31")] alias lCoeff_zero := leadingCoeff_zero
 
+@[simp, nontriviality] theorem leadingCoeff_subsingleton [Subsingleton R] {f : MvPolynomial σ R} :
+    m.leadingCoeff f = 0 := by
+  rw [Subsingleton.eq_zero f, leadingCoeff_zero]
```
Comment (YaelDillies) [inline Mathlib/RingTheory/MvPolynomial/MonomialOrder.lean:144]: Same here

File: Mathlib/RingTheory/MvPolynomial/MonomialOrder.lean (hunk 7 above)
Comment (YaelDillies) [reply Mathlib/RingTheory/MvPolynomial/MonomialOrder.lean]: `_iff` should be omitted if unambiguous

File: Mathlib/RingTheory/MvPolynomial/MonomialOrder.lean (hunk 12 above)
Comment (AntoineChambert-Loir) [reply Mathlib/RingTheory/MvPolynomial/MonomialOrder.lean:134]: The point is the `nontriviality` tag. Without that lemma (or some other), the tactic doesn't conclude.

File: Mathlib/RingTheory/MvPolynomial/MonomialOrder.lean (hunk 13 above)
Comment (AntoineChambert-Loir) [reply Mathlib/RingTheory/MvPolynomial/MonomialOrder.lean:144]: Idem. It's useful for `nontriviality`.

File: Mathlib/RingTheory/MvPolynomial/MonomialOrder.lean (hunk 12 above)
Comment (YaelDillies) [reply Mathlib/RingTheory/MvPolynomial/MonomialOrder.lean:134]: Can you complain on Zulip that you need to write this lemma for `nontriviality` to work?

Comment (acmepjz) [reply Mathlib/RingTheory/MvPolynomial/MonomialOrder.lean]: I think this `nontriviality` lemma is reasonable.

> I'm still unsure this lemma is worth having. We don't have `add_subsingleton [AddGroup G] [Subsingleton G] (a b : G) : a + b = a` etc

Because in this case you'd better have this `@[simp, nontriviality]` lemma instead: `eq_zero [Zero G] [Subsingleton G] (a : G) : a = 0`

Comment (YaelDillies) [reply Mathlib/RingTheory/MvPolynomial/MonomialOrder.lean]: > Because in this case you'd better have this `@[simp, nontriviality]` lemma instead: `eq_zero [Zero G] [Subsingleton G] (a : G) : a = 0`

This lemma would significantly slow simp down as it has a very general discrimination key

Comment (acmepjz) [reply Mathlib/RingTheory/MvPolynomial/MonomialOrder.lean]: OK, maybe only `@[nontriviality]`

File: Mathlib/RingTheory/MvPolynomial/MonomialOrder.lean [hunk 14]
```diff
@@ -339,24 +441,89 @@ theorem leadingCoeff_mul_of_isRegular_right {f g : MvPolynomial σ R}
...
+  induction n with
+  | zero => simp [m.degree_one]
+  | succ n hrec =>
+      simp only [pow_add, pow_one, add_smul, one_smul]
+      apply le_trans m.degree_mul_le
+      simp only [map_add, add_le_add_iff_right]
+      exact hrec
+
+theorem coeff_pow_of_smul_degree {f : MvPolynomial σ R} {n : ℕ} :
+    (f ^ n).coeff (n • (m.degree f)) = m.leadingCoeff f ^ n := by
```
Comment (YaelDillies) [inline Mathlib/RingTheory/MvPolynomial/MonomialOrder.lean:478]:
```suggestion
theorem coeff_pow_nsmul_degree (f : MvPolynomial σ R) (n : ℕ) :
    (f ^ n).coeff (n • m.degree f) = m.leadingCoeff f ^ n := by
```

File: Mathlib/RingTheory/MvPolynomial/MonomialOrder.lean [hunk 15]
```diff
@@ -339,24 +441,89 @@ theorem leadingCoeff_mul_of_isRegular_right {f g : MvPolynomial σ R}
...
+  induction n with
+  | zero => simp
+  | succ n hrec =>
+      simp only [add_smul, one_smul, pow_add, pow_one]
+      rw [m.coeff_mul_of_add_of_degree_le (m.degree_pow_le _) (le_refl _), hrec, leadingCoeff]
```
Comment (YaelDillies) [inline Mathlib/RingTheory/MvPolynomial/MonomialOrder.lean:483]:
```suggestion
    simp only [add_smul, one_smul, pow_add, pow_one]
    rw [m.coeff_mul_of_add_of_degree_le (m.degree_pow_le _) le_rfl, hrec, leadingCoeff]
```

File: Mathlib/RingTheory/MvPolynomial/MonomialOrder.lean [hunk 16]
```diff
@@ -339,24 +441,89 @@ theorem leadingCoeff_mul_of_isRegular_right {f g : MvPolynomial σ R}
...
+
+/-- Monomial degree of powers -/
+theorem degree_pow_of_pow_leadingCoeff_ne_zero {f : MvPolynomial σ R} {n : ℕ}
+    (hf : (m.leadingCoeff f) ^ n ≠ 0) :
```
Comment (YaelDillies) [inline Mathlib/RingTheory/MvPolynomial/MonomialOrder.lean:487]:
```suggestion
    (hf : m.leadingCoeff f ^ n ≠ 0) :
```

File: Mathlib/RingTheory/MvPolynomial/MonomialOrder.lean [hunk 17]
```diff
@@ -339,24 +441,89 @@ theorem leadingCoeff_mul_of_isRegular_right {f g : MvPolynomial σ R}
...
+    m.degree (f ^ n) = n • (m.degree f) := by
```
Comment (YaelDillies) [inline Mathlib/RingTheory/MvPolynomial/MonomialOrder.lean:488]:
```suggestion
    m.degree (f ^ n) = n • m.degree f := by
```

File: Mathlib/RingTheory/MvPolynomial/MonomialOrder.lean [hunk 18]
```diff
@@ -339,24 +441,89 @@ theorem leadingCoeff_mul_of_isRegular_right {f g : MvPolynomial σ R}
...
+  rw [mem_support_iff, coeff_pow_of_smul_degree]
+  exact hf
+
+/-- Leading coefficient of powers -/
+theorem leadingCoeff_pow_of_pow_leadingCoeff_ne_zero {f : MvPolynomial σ R} {n : ℕ}
+    (hf : m.leadingCoeff f ^ n ≠ 0) :
+    m.leadingCoeff (f ^ n) = m.leadingCoeff f ^ n := by
+  rw [leadingCoeff, degree_pow_of_pow_leadingCoeff_ne_zero hf, coeff_pow_of_smul_degree]
+
+theorem Monic.pow {f : MvPolynomial σ R} {n : ℕ} (hf : m.Monic f) :
```
Comment (YaelDillies) [inline Mathlib/RingTheory/MvPolynomial/MonomialOrder.lean:501]:
```suggestion
protected theorem Monic.pow {f : MvPolynomial σ R} {n : ℕ} (hf : m.Monic f) :
```

File: Mathlib/RingTheory/MvPolynomial/MonomialOrder.lean [hunk 19]
```diff
@@ -339,24 +441,89 @@ theorem leadingCoeff_mul_of_isRegular_right {f g : MvPolynomial σ R}
...
+    m.Monic (f ^ n) := by
+  nontriviality R
+  rw [Monic, leadingCoeff_pow_of_pow_leadingCoeff_ne_zero, hf.leadingCoeff_eq_one, one_pow]
+  rw [hf.leadingCoeff_eq_one, one_pow]
+  exact one_ne_zero
+
+/-- Monomial degree of powers (in a reduced ring) -/
+theorem degree_pow [IsReduced R] {f : MvPolynomial σ R} {n : ℕ} :
+    m.degree (f ^ n) = n • (m.degree f) := by
```
Comment (YaelDillies) [inline Mathlib/RingTheory/MvPolynomial/MonomialOrder.lean:510]:
```suggestion
theorem degree_pow [IsReduced R] (f : MvPolynomial σ R) (n : ℕ) :
    m.degree (f ^ n) = n • m.degree f := by
```

File: Mathlib/RingTheory/MvPolynomial/MonomialOrder.lean [hunk 20]
```diff
@@ -339,24 +441,89 @@ theorem leadingCoeff_mul_of_isRegular_right {f g : MvPolynomial σ R}
...
+    · rw [hn, pow_zero, degree_one]
+    · rw [zero_pow hn, degree_zero]
+  nontriviality R
+  apply degree_pow_of_pow_leadingCoeff_ne_zero
+  apply IsReduced.pow_ne_zero
+  rw [leadingCoeff_ne_zero_iff]
+  exact hf
+
+/-- Leading coefficient of powers (in a reduced ring) -/
+theorem leadingCoeff_pow [IsReduced R] {f : MvPolynomial σ R} {n : ℕ} :
```
Comment (YaelDillies) [inline Mathlib/RingTheory/MvPolynomial/MonomialOrder.lean:523]:
```suggestion
theorem leadingCoeff_pow [IsReduced R] (f : MvPolynomial σ R) (n : ℕ) :
```

**Review by YaelDillies — APPROVED** [review]
Thanks! 🚀

maintainer merge

File: Mathlib/RingTheory/MvPolynomial/MonomialOrder.lean [hunk 21]
```diff
@@ -111,6 +165,14 @@ theorem degree_X [Nontrivial R] {s : σ} :
   change m.degree (monomial (Finsupp.single s 1) (1 : R)) = _
   rw [degree_monomial, if_neg one_ne_zero]
 
+@[simp] theorem degree_one : m.degree (1 : MvPolynomial σ R) = 0 := by
+  obtain h | h' := subsingleton_or_nontrivial R
+  · rw [Subsingleton.eq_zero 1, degree_zero]
+  · change m.degree (monomial 0 1) = 0
+    classical
+    rw [degree_monomial]
+    simp
```
Comment (acmepjz) [inline Mathlib/RingTheory/MvPolynomial/MonomialOrder.lean:174]: (too late) Since you already put `degree_subsingleton` as `@[simp, nontriviality]`, the first part of the proof could be `exact degree_subsingleton` or `simp`, or just replace `obtain` part by `nontriviality R`.

Comment (riccardobrasca) [reply Mathlib/RingTheory/MvPolynomial/MonomialOrder.lean:174]: Feel free to open another PR!

Comment (AntoineChambert-Loir) [reply Mathlib/RingTheory/MvPolynomial/MonomialOrder.lean:174]: #22134
